US06875760B2
Resin bound 3-{3-(4-tert-butylphenyl)-3-[4-(2H-tetrazol-5-ylcarbamoyl)benzyl]ureido}benzoic acid
To the above resin bound 3-{3-(4-tert-butylphenyl)-3-[4-(2H-tetrazol-5-ylcarbamoyl)benzyl]ureido}benzoic acid methyl ester was added a solution of potassium trimethylsilanolate in THF (1M, 5 mL). The mixture was shaken 4 hours at 25° C., filtered and allowed to react with a solution of acetic acid in THF (20%, 5 mL) at 25° C. overnight. Filtration followed by washing of the resin with dichloromethane (2×10 mL) afforded the resin bound title compound.

reactant | 3-{3-(4-tert-butylphenyl)-3-[4-(2H-tetrazol-5-ylcarbamoyl)benzyl]ureido}benzoic acid methyl ester | COC(C1=CC(=CC=C1)NC(=O)N(CC1=CC=C(C=C1)C(NC=1N=NNN1)=O)C1=CC=C(C=C1)C(C)(C)C)=O | C28H29N7O4
reactant | potassium trimethylsilanolate | C[Si]([O-])(C)C.[K+]
solvent | THF | 1M, 5 mL | C1CCOC1 | C4H8O
product | 3-{3-(4-tert-butylphenyl)-3-[4-(2H-tetrazol-5-ylcarbamoyl)benzyl]ureido}benzoic acid | C(C)(C)(C)C1=CC=C(C=C1)N(C(NC=1C=C(C(=O)O)C=CC1)=O)CC1=CC=C(C=C1)C(NC=1N=NNN1)=O | C27H27N7O4
